US06369226B1
Oxalyl chloride (13.3 mL, 152 mmol) and DMF (50 μL) were added to suspension of 3-carboxybenzaldehyde (11.4 g, 76.2 mmol) in 200 mL CH2Cl2 and stirred at 23° C. for 18 h. The resulting clear solution was concentrated, dissolved in 100 mL CH2Cl2, and concentrated again. The crude acid chloride was dissolved in 20 mL THF, poured into a mixture of concentrated NH4OH (26 mL, 381 mmol) with 100 mL crushed ice, and allowed to warm to 23° C. with stirring. The mixture was acidified with conc. HCl to pH ˜3, then concentrated to remove THF. The resulting aqueous suspension was filtered and the white solid product dried under vacuum to give 7.4 g (65%) of 3-carbamoyl-benzaldehyde compound 1a: 1H NMR (DMSO-d6)δ 10.06 (1 H, s), 8.40 (1 H, s), 8.19 (1 H, s), 8.17 (1 H, d, J=6.6 Hz), 8.04 (1 H, d, J=7.7 Hz), 7.69 (1 H, t, J=7.7 Hz), 7.56 (1 H, s); IR (KBr pellet) 3391, 3205, 1711, 1694, 1664, 1385, 1217. Anal. (C8H7NO2•0.1H2O) C, H, N.

reactant | Oxalyl chloride | 152 mmol, 13.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxybenzaldehyde | 76.2 mmol, 11.4 g | C(=O)(O)C=1C=C(C=O)C=CC1 | C8H6O3
reactant | NH4OH | 381 mmol, 26 mL | [NH4+].[OH-]
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 μL | CN(C)C=O | C3H7NO
product | 3-carbamoyl-benzaldehyde | 7.4 g, 65% | C(N)(=O)C=1C=C(C=O)C=CC1 | C8H7NO2
